US07098345B2
3-[(Dimethylamino)methyl]-1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one hydrochloride (10 g, 34 mmol) and 2-methylimidazole (16.8 g, 205 mmol, 6.0 eq.) were suspended in mixture of water (75 ml) and dimethyl formamide (37.5 ml). The reaction mixture was heated to reflux (102–103° C.) and stirred for a further 6 hours at this temperature. The reaction mixture was cooled to 5–10° C. and stirred for half an hour at this temperature. The precipitated crude ondansetron base was filtered and washed with cold water (3×90 ml) and dried under vacuum at 60° C. to give ondansetron base (9.68 g, 96.4% yield) in 98.9% HPLC purity.

reactant | 3-[(Dimethylamino)methyl]-1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one hydrochloride | 34 mmol, 10 g | Cl.CN(C)CC1CCC=2N(C3=CC=CC=C3C2C1=O)C
reactant | 2-methylimidazole | 205 mmol, 16.8 g, 6.0 eq. | CC=1NC=CN1 | C4H6N2
reactant | water | 75 ml | O | H2O
solvent | dimethyl formamide | 37.5 ml | CN(C=O)C | C3H7NO
product | ondansetron | 9.68 g, 96.4% yield | CC1=NC=CN1CC2CCC3=C(C=4C=CC=CC4N3C)C2=O | C18H19N3O
